US04331664
Water (0.1 ml) was added to a suspension of 2-hexyloxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid (syn isomer) (2.0 g) in tetrahydrofuran (20 ml). Phosphorus oxychloride (1.4 g) was added thereto at 0° to 5° C. and the mixture was stirred for 20 minutes at the same temperature. Trimethylsilylacetamide (1.3 g) was added thereto, the mixture was stirred for 20 minutes at the same temperature, phosphorus oxychloride (1.4 g) was added thereto, the resulting mixture was stirred for 20 minutes at 0° to 5° C., dimethylformamide (0.75 g) was added thereto and the resulting mixture was stirred for 1 hour at the same temperature. The resulting solution was at a time added at -20° C. to a solution of 7-amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3.3 g) in a mixture of tetrahydrofuran (30 ml) and trimethylsilylacetamide (6.8 g). The resulting mixture was stirred for 1.5 hours at the same temperature. The reaction mixture was post-treated according to similar manners to those of the aforementioned Examples to give 7-[2-hexyloxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.5 g).

reactant | Water | 0.1 ml | O | H2O
reactant | 2-hexyloxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid | 2.0 g | C(CCCCC)ON=C(C(=O)O)C=1N=C(SC1)N | C11H17N3O3S
reactant | Phosphorus oxychloride | 1.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus oxychloride | 1.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.3 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | trimethylsilylacetamide | 6.8 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | Trimethylsilylacetamide | 1.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | dimethylformamide | 0.75 g | CN(C=O)C | C3H7NO
product | 7-[2-hexyloxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | C(CCCCC)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C21H26N8O5S3
